US07717964B2
Step 1: Synthesis 1,1′-{disulfanediylbis[ethane-2,1-diylimino(4-oxobutane-4,1-diyl)]}bis(2-methyl-pyridinium)dichloride
1.13 g of N,N′-(disulfanediyldiethane-2,1-diyl)bis(4-chlorobutanamide) was dispersed in 0.5 mL of N-methylpyrrolidinone and 2.5 mL acetonitrile and heated at 50° C. 0.71 mL of picoline was added and the reaction mixture was stirred for 5 days at 50° C. A few milligrams of cesium carbonate and additional 0.35 mL of 2-picoline were added. After one day at 65° C., the reaction mixture was poured in 50 mL acetonitrile. The resulting gum was washed several times with ethyl acetate, solubilized in ethanol, filtered and dried under vacuum. 0.95 g of a beige solid were obtained.

reactant | N,N′-(disulfanediyldiethane-2,1-diyl)bis(4-chlorobutanamide) | 1.13 g | S(SCCNC(CCCCl)=O)CCNC(CCCCl)=O | C12H22Cl2N2O2S2
reactant | picoline | 0.71 mL | N1=C(C=CC=C1)C | C6H7N
reactant | cesium carbonate | A few milligrams | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-picoline | 0.35 mL | N1=C(C=CC=C1)C | C6H7N
solvent | N-methylpyrrolidinone | 0.5 mL | CN1C(CCC1)=O | C5H9NO
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
solvent | acetonitrile | 2.5 mL | C(C)#N | C2H3N
product | 1,1′-{disulfanediylbis[ethane-2,1-diylimino(4-oxobutane-4,1-diyl)]}bis(2-methyl-pyridinium)dichloride | 0.95 g | [Cl-].[Cl-].S(SCCNC(CCC[N+]1=C(C=CC=C1)C)=O)CCNC(CCC[N+]1=C(C=CC=C1)C)=O | InChI=1S/C24H34N4O2S2.2ClH/c1-21-9-3-5-15-27(21)17-7-11-23(29)25-13-19-31-32-20-14-26-24(30)12-8-18-28-16-6-4-10-22(28)2;;/h3-6,9-10,15-16H,7-8,11-14,17-20H2,1-2H3;2*1H
